US06794395B1
1-acetoxy-3-(1-ethoxy-1-phenylmethylidene)-6-nitro-2-indolinone
300 mg of 1-hydroxy-6-nitro-2-indolinone are dissolved in 4.0 ml of acetic anhydride and 4.0 ml of triethyl orthobenzoate, stirred for 6 hours at 110° C., concentrated by evaporation and purified through a silica gel column with methylene chloride as eluant.

reactant | 1-hydroxy-6-nitro-2-indolinone | 300 mg | ON1C(CC2=CC=C(C=C12)[N+](=O)[O-])=O | C8H6N2O4
reactant | acetic anhydride | 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethyl orthobenzoate | 4.0 ml | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
product | 1-acetoxy-3-(1-ethoxy-1-phenylmethylidene)-6-nitro-2-indolinone | C(C)(=O)ON1C(C(C2=CC=C(C=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O6
